US08497381B2
Step 3: 3-(2-Bromo-5-trifluoromethyl-benzyl)-oxazolidin-2-one
To 2-oxazolidone (0.110 g, 1.26 mmol) in DMF (4 mL) was added sodium hydride (60% in mineral oil; 0.056 g, 1.39 mmol), and the mixture was stirred at 0° C. for 10 minutes. 2-Bromo-5-(trifluoromethyl)benzyl bromide (0.420 g, 1.26 mmol) was added, and the reaction was stirred at 0° C. for 1 hour. The mixture was diluted with EtOAc and H2O, and the aqueous layer was separated and extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography (0-50% EtOAc in hexanes) to give the title compound.

reactant | 2-oxazolidone | 1.26 mmol, 0.110 g | O1[C-]=NC(C1)=O
reactant | sodium hydride | 1.39 mmol, 0.056 g | [H-].[Na+]
reactant | 2-Bromo-5-(trifluoromethyl)benzyl bromide | 1.26 mmol, 0.420 g | BrC1=C(CBr)C=C(C=C1)C(F)(F)F | C8H5Br2F3
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 3-(2-Bromo-5-trifluoromethyl-benzyl)-oxazolidin-2-one | BrC1=C(CN2C(OCC2)=O)C=C(C=C1)C(F)(F)F | C11H9BrF3NO2
